US09303065B2
A solution of 5-hydroxy-7-methoxy-2,2-dimethyl-4H-benzo[d][1,3]dioxin-4-one (30.00 g, 0.134 mol) in N,N-dimethylformamide (400 mL) was treated with powdered anhydrous potassium carbonate (19.41 g, 0.14 mol) added all at once. The resulting mixture was stirred in vacuo for 10 min. and then flushed with nitrogen. The reaction flask was placed in a water bath (22° C.) and treated with benzyl bromide (24.03 g, 0.14 mol) added dropwise over 15 min. The resulting mixture was then stirred at 22° C. for 18 h (no starting material left by tlc). The solid was filtered and washed with N,N-dimethylformamide. The filtrate was evaporated in vacuo and the residual oil was diluted with ethyl acetate (500 mL), washed with cold 0.1 N hydrochloric acid, saturated sodium bicarbonate and brine. After drying over anhydrous magnesium sulfate, evaporation of the solvent gave a thick syrup. Crystallization form ethyl acetate (50 mL) and hexane (150 mL) gave 35.17 g of 5-(benzyloxy)-7-methoxy-2,2-dimethyl-4H-benzo[d][1,3]dioxin-4-one as large colorless prisms. Chromatography of the mother liquors on silica gel (4×13 cm, elution toluene-ethyl acetate 0-5%) gave 6.64 g of additional material to afford a total yield of 41.81 g (99%). HRMS (ESI) calcd for C18H19O5 [M+H]+ m/z 315.1227, found 315.1386. 1H NMR (CDCl3, 600 MHz) δ 1.68 (s, 6H), 3.77 (s, 3H), 5.19 (s, 2H), 5.19 (s, 2H), 6.04 (d, J=2.03 Hz, 1H), 6.15 (d, J=2.03 Hz, 1H), 7.27 (broad t, 1H), 736 (broad t, 2H), 7.52 (broad d, 2H).

reactant | 5-hydroxy-7-methoxy-2,2-dimethyl-4H-benzo[d][1,3]dioxin-4-one | 0.134 mol, 30.00 g | OC1=CC(=CC=2OC(OC(C21)=O)(C)C)OC | C11H12O5
reactant | potassium carbonate | 0.14 mol, 19.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.14 mol, 24.03 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | 5-(benzyloxy)-7-methoxy-2,2-dimethyl-4H-benzo[d][1,3]dioxin-4-one | 35.17 g | C(C1=CC=CC=C1)OC1=CC(=CC=2OC(OC(C21)=O)(C)C)OC | C18H18O5
